US07572801B2
In analogy to the procedure described in example 78.3, 2,5-dichloronicotinic acid was reacted with 2-(2-naphthalen-2-yl-ethoxy)-acetamidine hydrochloride in the presence of TBTU and DIPEA to give 2,5-dichloro-N-[1-imino-2-(2-naphthalen-2-yl-ethoxy)-ethyl]-nicotinamide as yellow oil. MS: m/e=402.3 [M+H+].

reactant | 2,5-dichloronicotinic acid | ClC1=C(C(=O)O)C=C(C=N1)Cl | C6H3Cl2NO2
reactant | 2-(2-naphthalen-2-yl-ethoxy)-acetamidine hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)CCOCC(=N)N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
product | 2,5-dichloro-N-[1-imino-2-(2-naphthalen-2-yl-ethoxy)-ethyl]-nicotinamide | ClC1=C(C(=O)NC(COCCC2=CC3=CC=CC=C3C=C2)=N)C=C(C=N1)Cl | C20H17Cl2N3O2
